US07241791B2
Step 2: 4-(7-chloro-1-cyclohexyl-1H-indazol-3-yl)phenol
Prepared according to Method C step B from 7-chloro-1-cyclohexyl-3-(4-methoxyphenyl)-1H-indazole (0.55 g, 1.61 mmol), boron tribromide (0.61 mL, 6.5 mmol) and 1.0 mL of cyclohexene to give the product (0.26 g) as an off-white solid.

reactant | 7-chloro-1-cyclohexyl-3-(4-methoxyphenyl)-1H-indazole | 1.61 mmol, 0.55 g | ClC=1C=CC=C2C(=NN(C12)C1CCCCC1)C1=CC=C(C=C1)OC | C20H21ClN2O
reactant | boron tribromide | 6.5 mmol, 0.61 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(7-chloro-1-cyclohexyl-1H-indazol-3-yl)phenol | 0.26 g | ClC=1C=CC=C2C(=NN(C12)C1CCCCC1)C1=CC=C(C=C1)O | C19H19ClN2O
